2163-12-31 07:05:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Retured to ICU for mucous plug.  Reintubated.
   Ethics consuted regarding medical futility.  No indication for DNR not
   indicated now as not ineffective and harm not >>> than suffering.
   Spoke to brother [**Name (NI) 11176**] ([**Telephone/Fax (1) 11177**] on phone who wants to know that
   when [**Known firstname **] dies, that everything was done.  He appeciates our good work.
   Required increased to keep TV around 300
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2163-12-30**] 01:12 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2163-12-30**] 08:40 AM
   Heparin Sodium (Prophylaxis) - [**2163-12-30**] 08:08 PM
   Fentanyl - [**2163-12-31**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-12-31**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.3
C (97.3
   HR: 83 (70 - 86) bpm
   BP: 112/60(73) {55/38(40) - 152/80(89)} mmHg
   RR: 18 (6 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 67.6 kg (admission): 66.3 kg
   Height: 71 Inch
             Total In:
                                                                    328 mL
                                                                    433 mL
   PO:
             TF:
                                                                     20 mL
                                                                    165 mL
   IVF:
                                                                    188 mL
                                                                     68 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    328 mL
                                                                    433 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 300 (300 - 300) mL
   Vt (Spontaneous): 324 (220 - 425) mL
   PS : 12 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 94
   PIP: 18 cmH2O
   Plateau: 33 cmH2O
   Compliance: 10.7 cmH2O/mL
   SpO2: 100%
   ABG: ///24/
   Ve: 4.5 L/min
   Physical Examination
   Gen: Intubated on vent
   Heart: RRR, distant heart sounds
   Lungs: Decreased BS on R side, expiratory rhonchi on left
   Abd: Soft, ND, PEG tube in place
   Ext: Fistula in L arm, 2+ pitting edema in [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) 8695**]
   Labs / Radiology
   189 K/uL
   9.6 g/dL
   180 mg/dL
   2.7 mg/dL
   24 mEq/L
   4.5 mEq/L
   27 mg/dL
   106 mEq/L
   139 mEq/L
   32.2 %
   6.7 K/uL
        [image002.jpg]
                            [**2163-12-23**]  05:54 AM
                            [**2163-12-25**]  01:01 AM
                            [**2163-12-25**]  04:25 AM
                            [**2163-12-26**]  03:27 AM
                            [**2163-12-26**]  03:23 PM
                            [**2163-12-26**]  08:45 PM
                            [**2163-12-27**]  03:49 AM
                            [**2163-12-28**]  04:28 AM
                            [**2163-12-30**]  07:28 AM
                            [**2163-12-31**]  02:23 AM
   WBC
   8.2
   9.3
   8.0
   9.9
   9.2
   8.5
   6.7
   Hct
   24.5
   24.0
   23.1
   29.3
   30.2
   28.9
   29.7
   29.0
   32.2
   Plt
   [**Telephone/Fax (2) 11178**]
   189
   Cr
   1.8
   2.1
   2.6
   3.2
   2.3
   2.2
   2.7
   TCO2
   26
   Glucose
   85
   89
   149
   68
   125
   159
   180
   Other labs: PT / PTT / INR:14.6/38.5/1.3, ALT / AST:24/31, Alk Phos / T
   Bili:122/0.2, Differential-Neuts:87.7 %, Lymph:7.8 %, Mono:3.5 %,
   Eos:0.9 %, Lactic Acid:1.5 mmol/L, Albumin:1.9 g/dL, LDH:196 IU/L,
   Ca++:8.5 mg/dL, Mg++:2.0 mg/dL, PO4:3.6 mg/dL
   Microbiology: No new growth
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name 121**] PROBLEM - Mucous Plugging
 INEFFECTIVE COPING
 AIRWAY CLEARANCE, IMPAIRED
 KNOWLEDGE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 PNEUMONIA, OTHER
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 ALTERATION IN NUTRITION
   74 yo M with ESRD, chronic pleural effusion, Hx of large CVA who is
   non-responsive s/p PEA arrest.
   # Hypotension:  Possibly infections (lung, midline, skin, cdiff,
   infected fistula), vs. adrenal vs. vasculopathy
   -dopamine prn
   - blood, urine, stool, sputm
   - Vanc/Cefepime; hold CTX
   - stress dose steroids
   # AFF--last HD friday,
   -no acute HD requirement today,
   -will require fistula repair
   # Inability to protect airway and hypoxemic respiratory failure:
   secondary to stroke.  Patient will likely continue to have episodes of
   mucous plugging.
   - continue vent
   - would recommend trach and home with hospice, although family is
   unlikely to support any deescilation of care
   - palliative care and ethics following
   - ETT suctioning
   - Hyoscyamine
   #Possible Neurosyphilis: Unlikely diagnosis, but treating empirically
   - continue on CTX until Monday for 14 day course
   .
   #ESRD: S/P HD yesterday. Transplant surgery feels that his fistula
   needs to be repaired prior to his leaving the hospital.
   - f/u renal recs
   - dialysis dose medications
   - HD per renal
   #DMII: Continue previous insulin regimen, TFs
   #Vasculopathy:
   - continue simvastatin, lisinopril and ASA when stable
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2163-12-30**] 10:00 PM 30 mL/hour
   Glycemic Control:  ISS
   Lines:
   CVL fem
   Midline - [**2163-12-30**] 07:11 AM
   Prophylaxis:
   DVT: SQ Heparin
   Stress ulcer: PPI
   Code status: Full code
   Disposition:ICU

2163-12-31 12:26:00 Physician Attending Progress Note
Chief Complaint: AMS, resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   74M w/ ESRD on HD, CVA after cabg, chronic R effusion, admitted
   initially with AMS, prolonged hospital course c/b PEA arrest,  now
   readmitted to MICU with recurrent respiratory failure in setting of
   poor mental status and inability to manage secretions and intermittent
   hypotension
   24 Hour Events:
   hypotensive requiring 2 pressors overnight --> weaned to off
   ethics and palliative care services assisting with goals of care
   meeting with family
   History obtained from ho
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2163-12-30**] 01:12 PM
   Infusions:
   Dopamine - 2.5 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2163-12-30**] 08:08 PM
   Fentanyl - [**2163-12-31**] 04:30 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-12-31**] 12:23 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.9
C (96.6
   HR: 90 (71 - 90) bpm
   BP: 90/55(64) {65/44(49) - 163/80(100)} mmHg
   RR: 18 (2 - 25) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 67.6 kg (admission): 66.3 kg
   Height: 71 Inch
             Total In:
                                                                    328 mL
                                                                    789 mL
   PO:
             TF:
                                                                     20 mL
                                                                    299 mL
   IVF:
                                                                    188 mL
                                                                    130 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    328 mL
                                                                    789 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 321 (220 - 425) mL
   PS : 12 cmH2O
   RR (Spontaneous): 32
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 94
   PIP: 18 cmH2O
   SpO2: 100%
   ABG: ///24/
   Ve: 8 L/min
   Physical Examination
   General Appearance: No acute distress, unresponsive
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal, Distant)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: r base)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Noxious stimuli, Movement: withdraws
   Tone: increased
   Labs / Radiology
   9.6 g/dL
   189 K/uL
   180 mg/dL
   2.7 mg/dL
   24 mEq/L
   4.5 mEq/L
   27 mg/dL
   106 mEq/L
   139 mEq/L
   32.2 %
   6.7 K/uL
        [image002.jpg]
                            [**2163-12-23**]  05:54 AM
                            [**2163-12-25**]  01:01 AM
                            [**2163-12-25**]  04:25 AM
                            [**2163-12-26**]  03:27 AM
                            [**2163-12-26**]  03:23 PM
                            [**2163-12-26**]  08:45 PM
                            [**2163-12-27**]  03:49 AM
                            [**2163-12-28**]  04:28 AM
                            [**2163-12-30**]  07:28 AM
                            [**2163-12-31**]  02:23 AM
   WBC
   8.2
   9.3
   8.0
   9.9
   9.2
   8.5
   6.7
   Hct
   24.5
   24.0
   23.1
   29.3
   30.2
   28.9
   29.7
   29.0
   32.2
   Plt
   [**Telephone/Fax (2) 11178**]
   189
   Cr
   1.8
   2.1
   2.6
   3.2
   2.3
   2.2
   2.7
   TCO2
   26
   Glucose
   85
   89
   149
   68
   125
   159
   180
   Other labs: PT / PTT / INR:14.6/38.5/1.3, ALT / AST:24/31, Alk Phos / T
   Bili:122/0.2, Differential-Neuts:87.7 %, Lymph:7.8 %, Mono:3.5 %,
   Eos:0.9 %, Lactic Acid:1.5 mmol/L, Albumin:1.9 g/dL, LDH:196 IU/L,
   Ca++:8.5 mg/dL, Mg++:2.0 mg/dL, PO4:3.6 mg/dL
   Imaging: CRX--r lung partially expanded (chronic), L clear
   Microbiology: no new micro data
   Assessment and Plan
   74M w/ ESRD on HD, CVA after cabg, chronic R effusion, admitted
   initially with AMS, prolonged hospital course c/b PEA arrest,  now
   readmitted to MICU with recurrent respiratory failure in setting of
   poor mental status and inability to manage secretions and intermittent
   hypotension
   Primary issues include:
   # Respiratory Failure:  primary issue appears to be mucus plugging with
   mental status being the primary driving force.
   tolerating PSV for now with adeuqte oxygenation
   check abg
   high risk for recurrent plugging
will continue vent support at this
   time as we continue discussions with family regarding goals of care
   and/or movement to [**Last Name (un) 1178**]
   # Hypotension:  intermittent, concern for sepsis (possible sources
   being lung, midline, skin, bowel c diff, infected fistula), though
   without leukocytosis or fever vs. cardiac etiology vs autonomic
   dysregulation,
   --now off pressors
   --pan cx, send stool for c diff
   --empirically broaden antibx--vanco and cefepime (hold ctx while on
   additional ceph),
   --ecg to eval for ischemia
   --place femoral line for access given inability to obtain IJ or SCL
   - hold on fem a-line given bypass/aortic grafts
   - Continue stress dose hydrocort given hypotension and chronic
   prednisone
   --send lactate, send differential
   # AMS--? Neurosyph with possible component of anoxic injury in setting
   of arrest
on ctx, Now cefepime
   # CRF--last HD yesterday, no acute HD indication at this time
    #adrenal insuff-stress steroids as above
   #Goals of Care:  continue communications with family, ethics and
   palliative care
s input much appreciated.
   Remainder as per resident note
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2163-12-30**] 10:00 PM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Midline - [**2163-12-30**] 07:11 AM
   Comments: fem line just placed
   Prophylaxis:
   DVT: sq heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2164-01-01 08:05:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Mucous plugging
   24 Hour Events:
 MULTI LUMEN - START [**2163-12-31**] 01:41 PM
 PICC LINE - START [**2164-1-1**] 01:14 AM
   Transiently hypotense so femoral CVL restarted for the third time and
   started on pressors quickly weaned off. Started on vanc/cefepime
   Family is discussing amongst themselves whether they want to take him
   home w/ continued aggressive goals vs. going to a rehab facility.
   Pan cultured.
   History obtained from Medical records
   Patient unable to provide history: Sedated, Unresponsive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2163-12-31**] 01:00 PM
   Ceftriaxone - [**2163-12-31**] 01:00 PM
   Cefipime - [**2163-12-31**] 04:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue
   Nutritional Support: Tube feeds
   Flowsheet Data as of  [**2164-1-1**] 08:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.1
C (97
   HR: 81 (74 - 90) bpm
   BP: 110/58(72) {65/37(45) - 163/79(100)} mmHg
   RR: 15 (0 - 25) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 67.6 kg (admission): 66.3 kg
   Height: 71 Inch
    CVP: 6 (1 - 22)mmHg
   Total In:
                                                                  2,582 mL
                                                                    758 mL
   PO:
   TF:
                                                                    860 mL
                                                                    398 mL
   IVF:
                                                                  1,162 mL
                                                                    159 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,582 mL
                                                                    758 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 356 (90 - 390) mL
   PS : 12 cmH2O
   RR (Spontaneous): 34
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 132
   PIP: 18 cmH2O
   SpO2: 100%
   ABG: ///22/
   Ve: 7.8 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ,
   Dullness : right side), (Breath Sounds: Diminished: right side)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed, No(t) Rash:
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Noxious stimuli, Movement: Non -purposeful, Tone: Not assessed
   Labs / Radiology
   225 K/uL
   9.5 g/dL
   200 mg/dL
   2.9 mg/dL
   22 mEq/L
   4.0 mEq/L
   33 mg/dL
   109 mEq/L
   140 mEq/L
   30.7 %
   9.5 K/uL
        [image002.jpg]
                            [**2163-12-25**]  01:01 AM
                            [**2163-12-25**]  04:25 AM
                            [**2163-12-26**]  03:27 AM
                            [**2163-12-26**]  03:23 PM
                            [**2163-12-26**]  08:45 PM
                            [**2163-12-27**]  03:49 AM
                            [**2163-12-28**]  04:28 AM
                            [**2163-12-30**]  07:28 AM
                            [**2163-12-31**]  02:23 AM
                            [**2164-1-1**]  04:58 AM
   WBC
   9.3
   8.0
   9.9
   9.2
   8.5
   6.7
   9.5
   Hct
   24.0
   23.1
   29.3
   30.2
   28.9
   29.7
   29.0
   32.2
   30.7
   Plt
   183
   190
   206
   199
   228
   189
   225
   Cr
   2.1
   2.6
   3.2
   2.3
   2.2
   2.7
   2.9
   TCO2
   26
   Glucose
   89
   149
   68
   125
   159
   180
   200
   Other labs: PT / PTT / INR:14.6/38.5/1.3, ALT / AST:24/31, Alk Phos / T
   Bili:122/0.2, Differential-Neuts:91.0 %, Lymph:5.1 %, Mono:3.6 %,
   Eos:0.2 %, Lactic Acid:1.5 mmol/L, Albumin:1.9 g/dL, LDH:196 IU/L,
   Ca++:8.6 mg/dL, Mg++:1.9 mg/dL, PO4:3.0 mg/dL
   Imaging: CXR [**12-31**]:
   The ET tube tip is 5 cm above the carina. The cardiomediastinal
   silhouette is
   stable. The loculated right pleural effusion is unchanged. Left lung is
   essentially clear. The left pleural effusion is unchanged.
   Microbiology: Blood cx: [**12-31**]: NGTD
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Mucous Plugging
 INEFFECTIVE COPING
 AIRWAY CLEARANCE, IMPAIRED
 KNOWLEDGE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 PNEUMONIA, OTHER
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   74 yo M with ESRD, chronic pleural effusion, Hx of large CVA who is
   non-responsive s/p PEA arrest.
   # Hypotension:  Possibly infections (lung, midline, skin, cdiff,
   infected fistula), vs. adrenal vs. vasculopathy. Seems to have wide
   swings so possible autonomic componenent.
   -Start midodrine TID
   -dopamine prn
   - blood, urine, stool, sputm
   - Vanc/Cefepime; hold CTX
   - stress dose steroids, consider ween today or tomorrow if hemodynamics
   improve
   # AFF--last HD friday,
   -no acute HD requirement today,
   -will require fistula repair
   # Inability to protect airway and hypoxemic respiratory failure:
   secondary to stroke.  Patient will likely continue to have episodes of
   mucous plugging. Some dysynchrony today with the vent during dialysis.
   Possible discomfort with TF during dialysis contributing. CXR
   unchanged.
   - continue vent, increase PS for relative hypercarbia.
   - would recommend trach and home with hospice, although family is
   unlikely to support any de-escalation of care
   - palliative care and ethics following
   - ETT suctioning
   - Starting mucomyst nebs prn
   - Hyoscyamine
   #Possible Neurosyphilis: Unlikely diagnosis, but treating empirically
   - continue on CTX until Monday for 14 day course
   .
   #ESRD: S/P HD yesterday. Transplant surgery feels that his fistula
   needs to be repaired prior to his leaving the hospital.
   - f/u renal recs
   - dialysis dose medications
   - HD per renal
   #DMII: Continue previous insulin regimen, TFs
   #Vasculopathy:
   - continue simvastatin, lisinopril and ASA when stable
 ALTERATION IN NUTRITION
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2163-12-31**] 11:28 AM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2163-12-31**] 01:41 PM
   PICC Line - [**2164-1-1**] 01:14 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:

2164-01-01 10:22:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   74M w/ ESRD on HD, CVA after cabg, chronic R effusion, admitted
   initially with AMS, prolonged hospital course c/b PEA arrest,  now
   readmitted to MICU with recurrent respiratory failure in setting of
   poor mental status and inability to manage secretions and intermittent
   hypotension
   24 Hour Events:
 MULTI LUMEN - START [**2163-12-31**] 01:41 PM
 PICC LINE - START [**2164-1-1**] 01:14 AM
   empiric antbx started and pan cx sent
   remained off pressors
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2163-12-31**] 01:00 PM
   Ceftriaxone - [**2163-12-31**] 01:00 PM
   Cefipime - [**2163-12-31**] 04:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-1-1**] 10:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.1
C (97
   HR: 72 (72 - 90) bpm
   BP: 107/66(76) {77/37(45) - 163/79(100)} mmHg
   RR: 11 (0 - 25) insp/min
   SpO2: 100%
   Heart rhythm: VF (Ventricular Fibrillation)
   Wgt (current): 67.6 kg (admission): 66.3 kg
   Height: 71 Inch
   CVP: 10 (1 - 22)mmHg
   Total In:
                                                                  2,582 mL
                                                                    940 mL
   PO:
   TF:
                                                                    860 mL
                                                                    459 mL
   IVF:
                                                                  1,162 mL
                                                                    201 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,582 mL
                                                                    940 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 269 (90 - 390) mL
   PS : 12 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 132
   PIP: 18 cmH2O
   Plateau: 6 cmH2O
   SpO2: 100%
   ABG: ///22/
   Ve: 6.5 L/min
   Physical Examination
   General Appearance: dysynchronous with vent
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal) distant
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: r base)
   Abdominal: Bowel sounds present, Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Cool, No(t) Rash:
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Non -purposeful, No(t) Sedated, Tone: nl
   Labs / Radiology
   9.5 g/dL
   225 K/uL
   200 mg/dL
   2.9 mg/dL
   22 mEq/L
   4.0 mEq/L
   33 mg/dL
   109 mEq/L
   140 mEq/L
   30.7 %
   9.5 K/uL
        [image002.jpg]
                            [**2163-12-25**]  01:01 AM
                            [**2163-12-25**]  04:25 AM
                            [**2163-12-26**]  03:27 AM
                            [**2163-12-26**]  03:23 PM
                            [**2163-12-26**]  08:45 PM
                            [**2163-12-27**]  03:49 AM
                            [**2163-12-28**]  04:28 AM
                            [**2163-12-30**]  07:28 AM
                            [**2163-12-31**]  02:23 AM
                            [**2164-1-1**]  04:58 AM
   WBC
   9.3
   8.0
   9.9
   9.2
   8.5
   6.7
   9.5
   Hct
   24.0
   23.1
   29.3
   30.2
   28.9
   29.7
   29.0
   32.2
   30.7
   Plt
   183
   190
   206
   199
   228
   189
   225
   Cr
   2.1
   2.6
   3.2
   2.3
   2.2
   2.7
   2.9
   TCO2
   26
   Glucose
   89
   149
   68
   125
   159
   180
   200
   Other labs: PT / PTT / INR:14.6/38.5/1.3, ALT / AST:24/31, Alk Phos / T
   Bili:122/0.2, Differential-Neuts:91.0 %, Lymph:5.1 %, Mono:3.6 %,
   Eos:0.2 %, Lactic Acid:1.5 mmol/L, Albumin:1.9 g/dL, LDH:196 IU/L,
   Ca++:8.6 mg/dL, Mg++:1.9 mg/dL, PO4:3.0 mg/dL
   Imaging: no new film
   Microbiology: bl cx [**12-31**] pending, ngtd
   Assessment and Plan
   74M w/ ESRD on HD, CVA after cabg, chronic R effusion, admitted
   initially with AMS, prolonged hospital course c/b PEA arrest,  now
   readmitted to MICU with recurrent respiratory failure in setting of
   poor mental status and inability to manage secretions and intermittent
   hypotension.
   Primary issues include:
   # Respiratory Failure-- primary issue appears to be mucus plugging with
   mental status being the primary driving force.  Difficulty also
   managing oral secretions. More dysnchronous with ventilator today
   possibly from pain or inadequate sedation, though BP limited, less
   likely recurrent plug noting stable airway pressures
   --check abg, bolus fentanyl, sedate if BP allows,  sx, repeat cxr,
   pending abd would increase PS or place back on rate
   --nebs, hyoscyamine
   --Continue vent support as pt is high risk for recurrent
   plugging
continue discussions with family regarding goals of care
   and/or movement to trach
   # Hypotension:  normotensive now though has had intermittent pressor
   requirements since transfer back to ICU, concern for sepsis (possible
   sources being lung, midline, skin, bowel c diff, infected fistula),
   though without leukocytosis or fever vs. cardiac etiology vs autonomic
   dysregulation, fluid shifts with HD also factor
   --pan cx and c diff pending,
   --continue empirically antibx--vanco and cefepime (hold ctx while on
   additional ceph), can likely stop antibx if cx neg X 48 hrs
   - Continue stress dose hydrocort given hypotension and chronic
   prednisone today
   # AMS--? Neurosyph with possible component of anoxic injury in setting
   of arrest
on ctx, Now cefepime
   # CRF
HD today
   # adrenal insuff-stress steroids as above then change back to home pred
   regimen
   #Goals of Care: a primary issue remains goals of care. continue
   communications with family, ethics and palliative care participating
   Remainder as per resident note
   ICU Care
   Nutrition:
   Comments: Tfs
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2163-12-31**] 01:41 PM
   PICC Line - [**2164-1-1**] 01:14 AM
   Prophylaxis:
   DVT:  heparin
   Stress ulcer:  ppi
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2164-01-02 07:40:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   dysynchronous with the vent during dialysis, looked uncomfortable, got
   25mcg of fentanyl and dropped pressures. Got fluid back from HD and
   briefly back on dopa but off quickly. Still hypercarbic but doesn't
   tolerate AC and increasing PS doesn't improve TV.
   Family still contemplating trach but still wants everything done.
   Started midodrine for ? autonomic instability.
   Started on PRN mucomyst nebs for secretions.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2163-12-31**] 01:00 PM
   Vancomycin - [**2164-1-1**] 03:00 PM
   Cefipime - [**2164-1-1**] 04:00 PM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2164-1-1**] 10:00 AM
   Heparin Sodium (Prophylaxis) - [**2164-1-1**] 09:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-1-2**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.6
C (96
   HR: 85 (62 - 85) bpm
   BP: 138/75(84) {63/38(44) - 159/80(100)} mmHg
   RR: 18 (0 - 24) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 67.6 kg (admission): 66.3 kg
   Height: 71 Inch
    CVP: 36 (10 - 36)mmHg
   Total In:
                                                                  2,548 mL
                                                                    665 mL
   PO:
   TF:
                                                                  1,055 mL
                                                                    379 mL
   IVF:
                                                                    753 mL
                                                                     86 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,548 mL
                                                                    665 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 0) mL
   Vt (Spontaneous): 281 (175 - 355) mL
   PS : 15 cmH2O
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 172
   PIP: 21 cmH2O
   Plateau: 6 cmH2O
   SpO2: 100%
   ABG: 7.31/57/54/25/0
   Ve: 6.4 L/min
   PaO2 / FiO2: 108
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   224 K/uL
   9.3 g/dL
   203 mg/dL
   2.2 mg/dL
   25 mEq/L
   3.7 mEq/L
   26 mg/dL
   108 mEq/L
   140 mEq/L
   30.8 %
   11.1 K/uL
        [image002.jpg]
                            [**2163-12-26**]  03:23 PM
                            [**2163-12-26**]  08:45 PM
                            [**2163-12-27**]  03:49 AM
                            [**2163-12-28**]  04:28 AM
                            [**2163-12-30**]  07:28 AM
                            [**2163-12-31**]  02:23 AM
                            [**2164-1-1**]  04:58 AM
                            [**2164-1-1**]  10:22 AM
                            [**2164-1-1**]  10:37 AM
                            [**2164-1-2**]  03:54 AM
   WBC
   9.9
   9.2
   8.5
   6.7
   9.5
   11.1
   Hct
   29.3
   30.2
   28.9
   29.7
   29.0
   32.2
   30.7
   30.8
   Plt
   [**Telephone/Fax (3) 11190**]89
   225
   224
   Cr
   3.2
   2.3
   2.2
   2.7
   2.9
   2.2
   TCO2
   30
   30
   Glucose
   68
   125
   159
   180
   200
   203
   Other labs: PT / PTT / INR:14.4/36.2/1.2, ALT / AST:24/31, Alk Phos / T
   Bili:122/0.2, Differential-Neuts:91.0 %, Lymph:5.1 %, Mono:3.6 %,
   Eos:0.2 %, Lactic Acid:1.5 mmol/L, Albumin:1.9 g/dL, LDH:196 IU/L,
   Ca++:8.7 mg/dL, Mg++:1.7 mg/dL, PO4:2.4 mg/dL
   Blood cx
s: [**12-31**]
 pending
   c. diff toxin assay [**1-1**]
 pending
   [**1-1**] CXR -
   Comparison is made with prior study [**12-31**].
   There is no interval change in partial collapse of the right lung and
   right
   pleural effusion. The left lung is grossly clear. There is no
   pneumothorax.
   Cardiomediastinum is unchanged. Lines and tubes remain in standard
   position.
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Mucous Plugging
 INEFFECTIVE COPING
 AIRWAY CLEARANCE, IMPAIRED
 KNOWLEDGE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 PNEUMONIA, OTHER
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 ALTERATION IN NUTRITION
   74 yo M with ESRD, chronic pleural effusion, Hx of large CVA who is
   non-responsive s/p PEA arrest.
   # Hypotension:  Possibly infections (lung, midline, skin, cdiff,
   infected fistula), vs. adrenal vs. vasculopathy. Seems to have wide
   swings so possible autonomic componenent.
   -Start midodrine TID
   -dopamine prn
   - blood, urine, stool, sputm
   - Vanc/Cefepime; hold CTX
   - stress dose steroids, consider ween today or tomorrow if hemodynamics
   improve
   # AFF--last HD friday,
   -no acute HD requirement today,
   -will require fistula repair
   # Inability to protect airway and hypoxemic respiratory failure:
   secondary to stroke.  Patient will likely continue to have episodes of
   mucous plugging. Some dysynchrony today with the vent during dialysis.
   Possible discomfort with TF during dialysis contributing. CXR
   unchanged.
   - continue vent, increase PS for relative hypercarbia.
   - would recommend trach and home with hospice, although family is
   unlikely to support any de-escalation of care
   - palliative care and ethics following
   - ETT suctioning
   - Starting mucomyst nebs prn
   - Hyoscyamine
   #Possible Neurosyphilis: Unlikely diagnosis, but treating empirically
   - continue on CTX until Monday for 14 day course
   .
   #ESRD: S/P HD yesterday. Transplant surgery feels that his fistula
   needs to be repaired prior to his leaving the hospital.
   - f/u renal recs
   - dialysis dose medications
   - HD per renal
   #DMII: Continue previous insulin regimen, TFs
   #Vasculopathy:
   - continue simvastatin, lisinopril and ASA when stable
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2164-1-1**] 09:08 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2163-12-31**] 01:41 PM
   PICC Line - [**2164-1-1**] 01:14 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2164-01-02 11:11:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   74M with ESRD on HD, h/o CVA post CABG, chronic right-sided effusion;
   in ICU s/p respiratory failure requiring intubation in setting of mucus
   plug.
   24 Hour Events:
   Ventilator dysynchrony yesterday; now improved back on
   pressure-support.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2163-12-31**] 01:00 PM
   Vancomycin - [**2164-1-1**] 03:00 PM
   Cefipime - [**2164-1-1**] 04:00 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2164-1-2**] 08:01 AM
   Heparin Sodium (Prophylaxis) - [**2164-1-2**] 08:01 AM
   Other medications:
   vitamin B
   Prednisone 5mg daily
   vitamin C
   folic acid
   Zocor
   Hydrocortisone 50mg q6h
   Midodrine
   Insulin sliding scale/fixed dose
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-1-2**] 10:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.9
C (96.6
   HR: 76 (62 - 85) bpm
   BP: 132/74(89) {103/50(64) - 159/80(100)} mmHg
   RR: 16 (0 - 18) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 67.6 kg (admission): 66.3 kg
   Height: 71 Inch
   CVP: 36 (34 - 36)mmHg
   Total In:
                                                                  2,548 mL
                                                                  1,031 mL
   PO:
   TF:
                                                                  1,055 mL
                                                                    537 mL
   IVF:
                                                                    753 mL
                                                                    104 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,548 mL
                                                                  1,031 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 0) mL
   Vt (Spontaneous): 366 (175 - 366) mL
   PS : 15 cmH2O
   RR (Spontaneous): 31
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 172
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: ///25/
   Ve: 7.4 L/min
   Physical Examination
   Gen: Opens eyes to noxious stimuli
   Chest: clear anterior; diminished right base
   CV: RRR
   Abd: s/nt/nd
   Ext: minimal edema
   Labs / Radiology
   9.3 g/dL
   224 K/uL
   203 mg/dL
   2.2 mg/dL
   25 mEq/L
   3.7 mEq/L
   26 mg/dL
   108 mEq/L
   140 mEq/L
   30.8 %
   11.1 K/uL
        [image002.jpg]
                            [**2163-12-26**]  03:23 PM
                            [**2163-12-26**]  08:45 PM
                            [**2163-12-27**]  03:49 AM
                            [**2163-12-28**]  04:28 AM
                            [**2163-12-30**]  07:28 AM
                            [**2163-12-31**]  02:23 AM
                            [**2164-1-1**]  04:58 AM
                            [**2164-1-1**]  10:22 AM
                            [**2164-1-1**]  10:37 AM
                            [**2164-1-2**]  03:54 AM
   WBC
   9.9
   9.2
   8.5
   6.7
   9.5
   11.1
   Hct
   29.3
   30.2
   28.9
   29.7
   29.0
   32.2
   30.7
   30.8
   Plt
   [**Telephone/Fax (3) 11190**]89
   225
   224
   Cr
   3.2
   2.3
   2.2
   2.7
   2.9
   2.2
   TCO2
   30
   30
   Glucose
   68
   125
   159
   180
   200
   203
   Other labs: PT / PTT / INR:14.4/36.2/1.2, ALT / AST:24/31, Alk Phos / T
   Bili:122/0.2, Differential-Neuts:91.0 %, Lymph:5.1 %, Mono:3.6 %,
   Eos:0.2 %, Lactic Acid:1.5 mmol/L, Albumin:1.9 g/dL, LDH:196 IU/L,
   Ca++:8.7 mg/dL, Mg++:1.7 mg/dL, PO4:2.4 mg/dL
   Imaging: CXR:  stable right sided effusion; no significant infiltrate.
   Microbiology: Blood cultures: no growth
   Cdiff - pending
   sputum: no growth
   Assessment and Plan
   74M with ESRD on HD, h/o CVA post CABG, chronic right-sided effusion;
   in ICU s/p respiratory failure requiring intubation in setting of mucus
   plug.
   1.       Respiratory Failure:  Barriers to extubation: 1) mental status
   2) Low minute ventilation
   - pulmonary toilet
   - SBT today, but awaiting consideration of trach per family
   - off sedation, minimal mental status but baseline
   - Awaiting family discussion, likely consult IP for trach.
   2.       Chronic renal failure:
   - HD yesterday
   - Discuss with transplant surgery regarding fistula repair
   3.       Hypotension:  Possible infection, but no clear source.
   - continue broad antibiotics, but plan to discontinue if cultures
   unrevealing at 48hours
   - Started midodrine over weekend
   - D/c hydrocortisone, prednisone 10mg daily x 2 days, then 5mg daily
   4.       Goals of Care:   Ongoing family discussions regarding overall
   goals of care.  Palliative care involved.  Suspect the family will
   desire continued aggressive level of care which will involve
   tracheostomy.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2164-1-2**] 07:58 AM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2163-12-31**] 01:41 PM
   PICC Line - [**2164-1-1**] 01:14 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Communication:  Comments: Familiy updated during rounds
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   I have seen and examined the patient and agree substantially with the
   assessment and plan as described above with the following
   modifications/emphasis:
   74 year old male h/o ESRD on hemodialysis, S/P CVAs, recurrent
   intubation because of mucous plugging/pneumonia who remains
   intubated/vented with family trying to decide to determine whether to
   have trach or not.
   T 36.1  P 76  BP 132/74  RR 16  Sat: 100%
   Intubated, sedated
   Chest: CTA bilaterally
   Heart: S1 S2 reg
   Abd: soft NT ND
   Ext: trace edema
   Assessment:
   1)       Acute Respiratory Failure
   2)       Recurrent mucous plugging/pneumonia
   3)       ESRD
   Plan:
   1)       Will discuss with the family as to whether they wish trach or
   to change goals of care. If want trach, will do in next couple days
   2)       Current antibiotics
   3)       Continue mechanical ventilation
   Time Spent: 30 minutes
   Patient is critically ill
   ------ Protected Section Addendum Entered By:[**Name (NI) 149**] [**Last Name (NamePattern1) 313**], MD
   on:[**2164-1-2**] 18:01 ------

2164-01-03 07:28:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2164-1-2**] 12:45 PM
 SPUTUM CULTURE - At [**2164-1-2**] 12:45 PM
 BLOOD CULTURED - At [**2164-1-2**] 01:02 PM
   needs IP consult in AM for trach eval
   on schedule for fistula revision in AM
   mildly elevated leukocytosis this AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2163-12-31**] 01:00 PM
   Vancomycin - [**2164-1-1**] 03:00 PM
   Cefipime - [**2164-1-1**] 04:00 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2164-1-2**] 08:01 AM
   Heparin Sodium (Prophylaxis) - [**2164-1-2**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-1-3**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36
C (96.8
   HR: 76 (73 - 97) bpm
   BP: 116/72(84) {116/56(71) - 154/99(110)} mmHg
   RR: 10 (5 - 26) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 79.1 kg (admission): 66.3 kg
   Height: 71 Inch
             Total In:
                                                                  2,120 mL
                                                                    188 mL
   PO:
             TF:
                                                                  1,200 mL
                                                                     50 mL
   IVF:
                                                                    170 mL
                                                                     38 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,120 mL
                                                                    188 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 439 (149 - 439) mL
   PS : 15 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 86
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: ///27/
   Ve: 6.9 L/min
   Physical Examination
   GEN: withdraws from painful stimuli, does not speak
   Heart: RRR, distant heart sounds
   Lungs: Decreased BS on Right, clear on left
   Abd: PEG tube in place, soft, NT, ND, BS+
   Ext: 3+ pitting edema on the left, [**1-14**] on the right
   Labs / Radiology
   200 K/uL
   8.6 g/dL
   116 mg/dL
   2.8 mg/dL
   27 mEq/L
   3.1 mEq/L
   39 mg/dL
   106 mEq/L
   140 mEq/L
   28.2 %
   12.8 K/uL
        [image002.jpg]
                            [**2163-12-26**]  08:45 PM
                            [**2163-12-27**]  03:49 AM
                            [**2163-12-28**]  04:28 AM
                            [**2163-12-30**]  07:28 AM
                            [**2163-12-31**]  02:23 AM
                            [**2164-1-1**]  04:58 AM
                            [**2164-1-1**]  10:22 AM
                            [**2164-1-1**]  10:37 AM
                            [**2164-1-2**]  03:54 AM
                            [**2164-1-3**]  04:01 AM
   WBC
   9.9
   9.2
   8.5
   6.7
   9.5
   11.1
   12.8
   Hct
   30.2
   28.9
   29.7
   29.0
   32.2
   30.7
   30.8
   28.2
   Plt
   [**Telephone/Fax (3) 11190**]89
   225
   224
   200
   Cr
   3.2
   2.3
   2.2
   2.7
   2.9
   2.2
   2.8
   TCO2
   30
   30
   Glucose
   68
   125
   159
   180
   200
   203
   116
   Other labs: PT / PTT / INR:14.3/59.1/1.2, ALT / AST:24/31, Alk Phos / T
   Bili:122/0.2, Differential-Neuts:91.0 %, Lymph:5.1 %, Mono:3.6 %,
   Eos:0.2 %, Lactic Acid:1.5 mmol/L, Albumin:1.9 g/dL, LDH:196 IU/L,
   Ca++:8.9 mg/dL, Mg++:1.8 mg/dL, PO4:2.0 mg/dL
   74 yo M with ESRD, chronic pleural effusion, Hx of large CVA who is
   non-responsive s/p PEA arrest.
   # Hypotension:  stable, off pressors. Blood cultures NGTD
   - midodrine TID
   - decreased prednisone to 5mg QD
   - f/u cultures
   # ESRD-,
   -no acute HD requirement today,
   -to OR today for fistula repair
   # Inability to protect airway and hypoxemic respiratory failure:
   secondary to stroke.  Patient will likely continue to have episodes of
   mucous plugging.  Dispo is uncertain as family wants to take home but
   unlikely that they will be able to care for him there.
   - Trach today
   - continue vent, PS down today
   - SBT today.
   - palliative care and ethics following
   - frequent ETT suctioning
   - mucomyst nebs prn
   - Hyoscyamine
   - D/w family whether they would be willing to accept transfer to a
   facility.
   - Minimize invasive procedures
   #Possible Neurosyphilis: Completed empiric 14 day course of CFTX today,
   which was d/c-ed.
   .
   #ESRD: S/P HD yesterday. Transplant surgery feels that his fistula
   needs to be repaired prior to his leaving the hospital.
   - f/u renal recs
   - dialysis dose medications
   - HD per renal
   #DMII: Continue previous insulin regimen, TFs
   #Vasculopathy:
   - continue simvastatin, lisinopril and ASA when stable
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2164-1-1**] 09:08 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2163-12-31**] 01:41 PM
   PICC Line - [**2164-1-1**] 01:14 AM
   Prophylaxis:
   DVT:  Decrease SubQ heparin to [**Hospital1 **]
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: in ICU

2164-01-03 11:27:00 Physician Attending Progress Note
Chief Complaint: PEA, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   74M s/p CVA post-CABG, recurrent respiratory failure and recent PEA.
   24 Hour Events:
   Getting fistula repair today.
   Discussed with family and agreed to proceed tracheostomy.
   History obtained from [**Hospital 85**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2163-12-31**] 01:00 PM
   Vancomycin - [**2164-1-1**] 03:00 PM
   Cefipime - [**2164-1-1**] 04:00 PM
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2164-1-2**] 09:00 PM
   Other medications:
   Prednisone 10mg
   Insulin sliding scale
   Midodrine
   Simvastatin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-1-3**] 11:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.9
C (96.6
   HR: 75 (67 - 97) bpm
   BP: 131/73(85) {105/56(68) - 154/99(110)} mmHg
   RR: 13 (5 - 26) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
   Wgt (current): 79.1 kg (admission): 66.3 kg
   Height: 71 Inch
             Total In:
                                                                  2,120 mL
                                                                    326 mL
   PO:
             TF:
                                                                  1,200 mL
                                                                     50 mL
   IVF:
                                                                    170 mL
                                                                     76 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,120 mL
                                                                    326 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 302 (149 - 439) mL
   PS : 15 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 86
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: ///27/
   Ve: 4.4 L/min
   Physical Examination
   Gen: somnolent, unresponsive to voice; withdraws to painful stimuli
   Chest:  diminished breath sounds on right
   CV: RRR
   Abd : s/nt/nd
   Ext: no edema
   Labs / Radiology
   8.6 g/dL
   200 K/uL
   116 mg/dL
   2.8 mg/dL
   27 mEq/L
   3.1 mEq/L
   39 mg/dL
   106 mEq/L
   140 mEq/L
   28.2 %
   12.8 K/uL
        [image002.jpg]
                            [**2163-12-26**]  08:45 PM
                            [**2163-12-27**]  03:49 AM
                            [**2163-12-28**]  04:28 AM
                            [**2163-12-30**]  07:28 AM
                            [**2163-12-31**]  02:23 AM
                            [**2164-1-1**]  04:58 AM
                            [**2164-1-1**]  10:22 AM
                            [**2164-1-1**]  10:37 AM
                            [**2164-1-2**]  03:54 AM
                            [**2164-1-3**]  04:01 AM
   WBC
   9.9
   9.2
   8.5
   6.7
   9.5
   11.1
   12.8
   Hct
   30.2
   28.9
   29.7
   29.0
   32.2
   30.7
   30.8
   28.2
   Plt
   [**Telephone/Fax (3) 11190**]89
   225
   224
   200
   Cr
   3.2
   2.3
   2.2
   2.7
   2.9
   2.2
   2.8
   TCO2
   30
   30
   Glucose
   68
   125
   159
   180
   200
   203
   116
   Other labs: PT / PTT / INR:14.3/59.1/1.2, ALT / AST:24/31, Alk Phos / T
   Bili:122/0.2, Differential-Neuts:91.0 %, Lymph:5.1 %, Mono:3.6 %,
   Eos:0.2 %, Lactic Acid:1.5 mmol/L, Albumin:1.9 g/dL, LDH:196 IU/L,
   Ca++:8.9 mg/dL, Mg++:1.8 mg/dL, PO4:2.0 mg/dL
   Imaging: CXR: persistent R effusion; no infiltrate
   Assessment and Plan
   74M with ESRD, CVA post-CABG, recurrent ICU admissions for respiratory
   failure in setting of mucus plug.
   1.  Respiratory Failure:  Unable to manage his oral secretions.
   - Consult IP for tracheostomy given current family goals of care
   wishes.  We have recommended a more conservative approach including
   palliative care and possible hospice; however, they firmly desire
   continued aggressive care with trach and persistent HD.
   - Continue venitlatory support with PSV pending tracheostomy
   2. Chronic Renal Failure:
   - fistula repair today by surgery
   - HD per renal
   3.  Adrenal insufficiency:
   - Titrate down to prednisone 5mg (home dose)
   4. Neurosyphillis (presumed):
   - completed course of ceftriaxone
   5.  Prolonged PTT:
   - decrease heparin to [**Hospital1 **] given prolonged PTT.
   - repeat tomorrow
   ICU Care
   Nutrition: NPO for procedure
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2163-12-31**] 01:41 PM
   PICC Line - [**2164-1-1**] 01:14 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   I have seen and examined the patient with the fellow and agree
   substantially with the assessment and plan as described above with the
   following modifications/emphasis:
   Remains on mechanical ventilation with recurrent respiratory arrests
   likely secondary to mucous plugging.  Family has decided to proceed
   with a trachoestomy.  No other new changes.
   T 36.6  BP 100/60  P 98  RR 18  Sat: 100%
   Intubated, poorly responsive
   Chest: CTA bilaterally
   Heart: S1 S2 reg
   Abd: soft NT ND
   Ext: no edema
   A:
   1)       Acute Respiratory Failure
   2)       ESRD
   3)       Mental status change
 possible neurosyphyllis
   4)       Adrenal insufficiency
   Plan:
   1)       Trach today, maintain current vent settings pending placement
   2)       Fistula repair
   3)       Continue to treat neurosymphyllis
   4)       Continue baseline corticosteroids
   Time Spent: 30 minutes
   Patient is critically ill
   ------ Protected Section Addendum Entered By:[**Name (NI) 149**] [**Last Name (NamePattern1) 313**], MD
   on:[**2164-1-3**] 07:40 PM ------

2164-01-04 07:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Trached
   Had fistula repair and transplant said will need bridge with line so
   ordered tunneled line
   Restarted on ASA 81mg
   Put on pressors after trach w/ slow wean off.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2164-1-1**] 03:00 PM
   Cefipime - [**2164-1-1**] 04:00 PM
   Infusions:
   Fentanyl - 50 mcg/hour
   Phenylephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Vecuronium - [**2164-1-3**] 04:35 PM
   Midazolam (Versed) - [**2164-1-3**] 04:37 PM
   Fentanyl - [**2164-1-3**] 04:37 PM
   Lansoprazole (Prevacid) - [**2164-1-3**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2164-1-3**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-1-4**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.6
   Tcurrent: 35.8
C (96.4
   HR: 63 (60 - 79) bpm
   BP: 111/42(64) {84/33(53) - 188/75(117)} mmHg
   RR: 13 (10 - 31) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 79.1 kg (admission): 66.3 kg
   Height: 71 Inch
             Total In:
                                                                  1,630 mL
                                                                    238 mL
   PO:
             TF:
                                                                    304 mL
                                                                    116 mL
   IVF:
                                                                    926 mL
                                                                    122 mL
   Blood products:
   Total out:
                                                                    100 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,530 mL
                                                                    238 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (400 - 450) mL
   Vt (Spontaneous): 258 (258 - 304) mL
   PS : 15 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 33 cmH2O
   Plateau: 32 cmH2O
   Compliance: 14.8 cmH2O/mL
   SpO2: 100%
   ABG: 7.43/35/171/23/0
   Ve: 4.6 L/min
   PaO2 / FiO2: 428
   Physical Examination
   GEN: withdraws from painful stimuli, does not speak
   Heart: RRR, distant heart sounds
   Lungs: Decreased BS on Right, clear on left
   Abd: PEG tube in place, soft, NT, ND, BS+
   Ext: 3+ pitting edema on the left, [**1-14**] on the right
   Labs / Radiology
   224 K/uL
   8.4 g/dL
   181 mg/dL
   3.2 mg/dL
   23 mEq/L
   4.1 mEq/L
   49 mg/dL
   107 mEq/L
   137 mEq/L
   28.1 %
   13.0 K/uL
        [image002.jpg]
                            [**2163-12-30**]  07:28 AM
                            [**2163-12-31**]  02:23 AM
                            [**2164-1-1**]  04:58 AM
                            [**2164-1-1**]  10:22 AM
                            [**2164-1-1**]  10:37 AM
                            [**2164-1-2**]  03:54 AM
                            [**2164-1-3**]  04:01 AM
                            [**2164-1-3**]  07:55 PM
                            [**2164-1-4**]  12:51 AM
                            [**2164-1-4**]  04:53 AM
   WBC
   8.5
   6.7
   9.5
   11.1
   12.8
   13.0
   Hct
   29.0
   32.2
   30.7
   30.8
   28.2
   28.1
   Plt
   [**Telephone/Fax (3) 11203**]
   Cr
   2.2
   2.7
   2.9
   2.2
   2.8
   3.2
   TCO2
   30
   30
   19
   24
   Glucose
   159
   180
   200
   [**Telephone/Fax (3) 11204**]
   Other labs: PT / PTT / INR:13.6/34.8/1.2, ALT / AST:24/31, Alk Phos / T
   Bili:122/0.2, Differential-Neuts:91.0 %, Lymph:5.1 %, Mono:3.6 %,
   Eos:0.2 %, Lactic Acid:1.6 mmol/L, Albumin:1.9 g/dL, LDH:196 IU/L,
   Ca++:8.7 mg/dL, Mg++:1.8 mg/dL, PO4:2.7 mg/dL
   Fluid analysis / Other labs: pH
   7.43
   pCO2 35
   pO2 171
   HCO3 24
   Imaging: CXR [**2164-1-3**]:
   Preliminary Report !! WET READ !!
   New trach, 5 cm from carina. No ptx. Otherwise no change from earlier
   today.
   Microbiology: New Sputum / Blood culture NGTD
   Assessment and Plan
   74 yo M with ESRD, chronic pleural effusion, Hx of large CVA who is
   non-responsive s/p PEA arrest.
   # Hypotension:  stable, off pressors now, but needed temporarily
   following trach.  Neo now weened off.  Blood cultures NGTD
   - midodrine TID
   - decreased prednisone to 5mg QD (home dose) and will continue
   - f/u cultures, but no active evidence of infection
   # ESRD-,
   -no acute HD requirement today,
   -s/p fistula repair yesterday
   - IR to placed HD tunneled line today.
   # Inability to protect airway and hypoxemic respiratory failure:
   secondary to stroke.  Patient will likely continue to have episodes of
   mucous plugging.  Dispo is uncertain as family wants to take home but
   unlikely that they will be able to care for him there.
   - Trached yesterday
   - continue vent, CMV overnight, but switch back to PS today and
   attempted trach color
   - palliative care and ethics following
   - frequent suctioning
   - mucomyst nebs prn
   - Hyoscyamine
   - D/w family whether they would be willing to accept transfer to a
   facility.
   - Minimize invasive procedures
   #Possible Neurosyphilis: Completed empiric 14 day course of CFTX
   yesterday, which was d/c-ed.
   .
   #ESRD: S/P HD yesterday
   - f/u renal recs
   - dialysis dose medications
   - HD per renal
   - Had fistula repair and transplant said will need bridge with line so
   ordered tunneled line
   #DMII: Continue previous insulin regimen, TFs
   #Vasculopathy:
   - continue simvastatin, lisinopril and ASA when stable
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2163-12-31**] 01:41 PM
   PICC Line - [**2164-1-1**] 01:14 AM
   Arterial Line - [**2164-1-3**] 04:20 PM
   HD tunneled line today, then can remove a-line tomorrow and potentially
   remove central line.
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2164-01-04 11:10:00 Physician Attending Progress Note
Chief Complaint: PEA/Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   75M h/o CVA; complicated hospital course with PEA and recurrent
   respiratory failure; now s/p trach.
   24 Hour Events:
   Trach and fistula repair yesterday.
   Required pressors peri-procedure, now off.
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2164-1-1**] 03:00 PM
   Cefipime - [**2164-1-1**] 04:00 PM
   Infusions:
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Vecuronium - [**2164-1-3**] 04:35 PM
   Midazolam (Versed) - [**2164-1-3**] 04:37 PM
   Fentanyl - [**2164-1-3**] 04:37 PM
   Lansoprazole (Prevacid) - [**2164-1-4**] 08:30 AM
   Heparin Sodium (Prophylaxis) - [**2164-1-4**] 08:30 AM
   Other medications:
   Sliding scale insulin
   Heparin 5000 [**Hospital1 **]
   ASA 81mg daily
   Prednisone 5mg daily
   Midodrine
   Chlorhexidine
   Levsin
   Lansoprazole
   Vitamin B
   Vit C
   Folic Acid
   Simvastatin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-1-4**] 11:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.6
   Tcurrent: 35.8
C (96.4
   HR: 69 (60 - 79) bpm
   BP: 121/57(78) {84/33(53) - 188/75(117)} mmHg
   RR: 12 (10 - 31) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 72.8 kg (admission): 66.3 kg
   Height: 71 Inch
             Total In:
                                                                  1,630 mL
                                                                    392 mL
   PO:
             TF:
                                                                    304 mL
                                                                    116 mL
   IVF:
                                                                    926 mL
                                                                    186 mL
   Blood products:
   Total out:
                                                                    100 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,530 mL
                                                                    392 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 450) mL
   Vt (Spontaneous): 258 (258 - 304) mL
   PS : 15 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 27 cmH2O
   Plateau: 23 cmH2O
   Compliance: 22.2 cmH2O/mL
   SpO2: 100%
   ABG: 7.43/35/171/23/0
   Ve: 4.5 L/min
   PaO2 / FiO2: 428
   Physical Examination
   Gen : does not follow commands, baseline mental status
   Chest clear anteriorly:
   CV: RRR
   Abd: s/nt/nd
   Ext: minimal edema
   Labs / Radiology
   8.4 g/dL
   224 K/uL
   181 mg/dL
   3.2 mg/dL
   23 mEq/L
   4.1 mEq/L
   49 mg/dL
   107 mEq/L
   137 mEq/L
   28.1 %
   13.0 K/uL
        [image002.jpg]
                            [**2163-12-30**]  07:28 AM
                            [**2163-12-31**]  02:23 AM
                            [**2164-1-1**]  04:58 AM
                            [**2164-1-1**]  10:22 AM
                            [**2164-1-1**]  10:37 AM
                            [**2164-1-2**]  03:54 AM
                            [**2164-1-3**]  04:01 AM
                            [**2164-1-3**]  07:55 PM
                            [**2164-1-4**]  12:51 AM
                            [**2164-1-4**]  04:53 AM
   WBC
   8.5
   6.7
   9.5
   11.1
   12.8
   13.0
   Hct
   29.0
   32.2
   30.7
   30.8
   28.2
   28.1
   Plt
   [**Telephone/Fax (3) 11203**]
   Cr
   2.2
   2.7
   2.9
   2.2
   2.8
   3.2
   TCO2
   30
   30
   19
   24
   Glucose
   159
   180
   200
   [**Telephone/Fax (3) 11204**]
   Other labs: PT / PTT / INR:13.6/34.8/1.2, ALT / AST:24/31, Alk Phos / T
   Bili:122/0.2, Differential-Neuts:91.0 %, Lymph:5.1 %, Mono:3.6 %,
   Eos:0.2 %, Lactic Acid:1.6 mmol/L, Albumin:1.9 g/dL, LDH:196 IU/L,
   Ca++:8.7 mg/dL, Mg++:1.8 mg/dL, PO4:2.7 mg/dL
   Imaging: CXR: trach in position; chronic right sided effusion.
   Microbiology: Cultures negative to date
   Assessment and Plan
   74M with ESRD, CVA post-CABG, recurrent ICU admissions for respiratory
   failure in setting of mucus plug.
   1.  Respiratory Failure:  Unable to manage his oral secretions. s/p
   trach
   - discontinue fentanyl and move to trach mask after temporary line
   placed
   - pressure support
   2.  Chronic renal failure:
   - temp HD line today awaiting for fistula to improve
   3.  Adrenal insufficiency:
   - continue prednisone 5mg daily
   4.       Neuro: baseline mental status
   - will discontinue fentanyl and move to intermittent boluses if needed
   for pain control
   ICU Care
   Nutrition: Restart tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2163-12-31**] 01:41 PM
   PICC Line - [**2164-1-1**] 01:14 AM
   Arterial Line - [**2164-1-3**] 04:20 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: Not intubated
   Communication: ICU consent signed Comments: Will update family
   Code status: Full code
   Disposition :ICU, case management regarding nursing facility
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   I have seen and examined the patient with the fellow and agree
   substantially with the assessment and plan with the following
   emhasis/modifications:
   Trach placed yesterday
 overnight some cuff leak noted which IP
   relates to old trach placement.  Came off phenylephrine.  Otherwise, no
   new complaints.
   T 35.9  P 69  BP 121/67  RR  12  SpO2: 100%
   Vented
   Poorly responsive
   CTA
   S1 S2 reg
   Abd: soft NTND
   Assessment:
   1)       Acute on Chronic respiratory failure
   2)       ESRD
   3)       Adrenal Insufficiency
   4)       Anoxic brain injury
   Plan:
   1)       HD today
   2)       Wean from vent as tolerated
   3)       Preparations for placement
   4)       Phenylephrine now off
   Time Spent: 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 149**] [**Last Name (NamePattern1) 313**], MD
   on:[**2164-1-4**] 07:54 PM ------

2164-01-05 07:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Tunneled right groin line placed by IR. HD afterward.
   Attempted to ween vent to PS but became hypotensive (also during
   dialysis). Got better right quick on AC.
   Then able to get down to PS later.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2164-1-4**] 06:30 PM
   Lansoprazole (Prevacid) - [**2164-1-4**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2164-1-4**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-1-5**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.8
C (96.4
   Tcurrent: 35.6
C (96
   HR: 87 (61 - 95) bpm
   BP: 122/37(56) {122/37(56) - 122/37(56)} mmHg
   RR: 18 (1 - 24) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 72.8 kg (admission): 66.3 kg
   Height: 71 Inch
             Total In:
                                                                    737 mL
                                                                    663 mL
   PO:
             TF:
                                                                    216 mL
                                                                    386 mL
   IVF:
                                                                    246 mL
                                                                     77 mL
   Blood products:
   Total out:
                                                                    500 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    237 mL
                                                                    663 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 153 (153 - 460) mL
   PS : 14 cmH2O
   RR (Set): 12
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI Deferred: RR >35
   PIP: 16 cmH2O
   Plateau: 19 cmH2O
   Compliance: 28.6 cmH2O/mL
   SpO2: 100%
   ABG: 7.43/38/201/24/1
   Ve: 7.3 L/min
   PaO2 / FiO2: 574
   Physical Examination
   GEN: withdraws from painful stimuli, does not speak
   Heart: RRR, distant heart sounds
   Lungs: Decreased BS on Right, clear on left
   Abd: PEG tube in place, soft, NT, ND, BS+
   Ext: 3+ pitting edema on the left, [**1-14**] on the right
   Labs / Radiology
   180 K/uL
   8.3 g/dL
   136 mg/dL
   2.2 mg/dL
   24 mEq/L
   3.5 mEq/L
   27 mg/dL
   108 mEq/L
   140 mEq/L
   26.8 %
   9.8 K/uL
        [image002.jpg]
                            [**2164-1-1**]  04:58 AM
                            [**2164-1-1**]  10:22 AM
                            [**2164-1-1**]  10:37 AM
                            [**2164-1-2**]  03:54 AM
                            [**2164-1-3**]  04:01 AM
                            [**2164-1-3**]  07:55 PM
                            [**2164-1-4**]  12:51 AM
                            [**2164-1-4**]  04:53 AM
                            [**2164-1-5**]  03:45 AM
                            [**2164-1-5**]  04:14 AM
   WBC
   9.5
   11.1
   12.8
   13.0
   9.8
   Hct
   30.7
   30.8
   28.2
   28.1
   26.8
   Plt
   [**Telephone/Fax (3) **]24
   180
   Cr
   2.9
   2.2
   2.8
   3.2
   2.2
   TCO2
   30
   30
   19
   24
   26
   Glucose
   200
   203
   116
   181
   136
   Other labs: PT / PTT / INR:14.0/35.3/1.2, ALT / AST:24/31, Alk Phos / T
   Bili:122/0.2, Differential-Neuts:91.0 %, Lymph:5.1 %, Mono:3.6 %,
   Eos:0.2 %, Lactic Acid:1.6 mmol/L, Albumin:1.9 g/dL, LDH:196 IU/L,
   Ca++:8.7 mg/dL, Mg++:1.8 mg/dL, PO4:2.7 mg/dL
   Microbiology: Sputum Cx:
      PSEUDOMONAS AERUGINOSA.    MODERATE GROWTH.
         GRAM NEGATIVE ROD #2.    MODERATE GROWTH.
   Assessment and Plan
   74 yo M with ESRD, chronic pleural effusion, Hx of large CVA who is
   non-responsive s/p PEA arrest.
   # Hypotension:  stable, off pressors now, but needed temporarily
   following trach placement.  Neo now weened off.  Blood cultures NGTD
   - midodrine TID, added during this hospitalization due to low blood
   pressures w/ HD
   - decreased prednisone to 5mg QD (home dose) and will continue
   - f/u cultures, but no active evidence of infection
   # ESRD:
   -HD performed yesterday, next due F for MWF schedule
   - s/p fistula repair [**1-3**]
   - IR placed  HD tunneled line [**1-4**] w/o complication.
   # Inability to protect airway and hypoxemic respiratory failure:
   secondary to stroke.  Patient will likely continue to have episodes of
   mucous plugging.  D/C today to LTAC
   - Trached [**1-3**]
   - switched to CMV overnight, while ordinarily would move to PS and
   trach mask today, will leave CMV with further movements to ween from
   vent at LTAC
   - palliative care and ethics following
   - frequent suctioning
   - mucomyst nebs prn
   - Hyoscyamine
   - Minimize invasive procedures
   #Possible Neurosyphilis: Completed empiric 14 day course of CFTX
   yesterday, which was d/c-ed.
   .
   # Positive sputum culture: patient with sputumc cx from [**1-2**] w/ + GNR
   and pseudomonas.  No evidence of systemic or pulmonary infection.  [**Month (only) 60**]
   be colonization.  Hold off on antibiotics for now, and will signout out
   for LTAC to follow up on culture.
   #DMII: Continue previous insulin regimen, TFs
   #Vasculopathy:
   - continue simvastatin, lisinopril and ASA when stable
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2164-1-3**] 09:47 PM 50 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2163-12-31**] 01:41 PM
   PICC Line - [**2164-1-1**] 01:14 AM: will remove [**Last Name (un) 1330**]
   Arterial Line - [**2164-1-3**] 04:20 PM: will remove today
   Dialysis Catheter - [**2164-1-4**] 06:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   I have seen and examined the patient and agree substantially with the
   assessment and plan as described above with the following
   modifications/emphasis:
   Overnight, had dialysis which was stopped early because of some low
   blood pressures which resolved post-dialysis. Otherwise, no new
   problems
   T 96.7  P: 73  BP 112/45  RR 16   Sat: 100%
   Poorly responsive (baseline)
   Chest: CTA bilaterally
   Heart: S1 S2 reg
   Abd: soft NT ND
   Ext: no edema
   Neuro: opens eyes and withdraws from pain - baseline mental status
   Assessment:
   1) Acute on Chronic Respiratory Failure
   2) ESRD
   3) Anoxic brain injury
   Plan:
   1) Continue PS ventilation support
   2) Remove femoral arterial and central line
   3) Will return long-term vent facility
   Time Spent: 35 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 149**] [**Last Name (NamePattern1) 313**], MD
   on:[**2164-1-5**] 01:03 PM ------